US05405826
Preparation of 8-(3-Trifluoromethylphenyl)pyrido[2,3-d]pyridazin-5-(6H)-one.
A mixture of 2-(3-trifluoromethylbenzoyl)nicotinic acid (1.5 g) and hydrazine hydrate (0.4 g) in ethanol was heated at the reflux temperature for 5 hours. On cooling and reduction of the volume of solvent by evaporation, a precipitate formed which was collected by filtration, to give the title compound as a white solid, 1.08 g, m.p. 210°-215° C.

reactant | 2-(3-trifluoromethylbenzoyl)nicotinic acid | 1.5 g | FC(C=1C=C(C(=O)C2=C(C(=O)O)C=CC=N2)C=CC1)(F)F | C14H8F3NO3
reactant | hydrazine hydrate | 0.4 g | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 8-(3-Trifluoromethylphenyl)pyrido[2,3-d]pyridazin-5-(6H)-one | FC(C=1C=C(C=CC1)C1=NNC(C2=C1N=CC=C2)=O)(F)F | C14H8F3N3O
